US08912186B2
2) 3-(6-(Methoxymethoxy)naphthalen-2-yl)-1-(naphthalen-2-yl)prop-2-en-1-one
Synthesised according to example 1.59.1 using 6-(methoxymethoxy)-2-naphthaldehyde (2.0 g, 9.25 mmol) and 1-(naphthalen-2-yl)ethanone (1.57 g, 9.25 mmol); yellow solid; yield: 1.90 g (56%);

reactant | 6-(methoxymethoxy)-2-naphthaldehyde | 9.25 mmol, 2.0 g | COCOC=1C=C2C=CC(=CC2=CC1)C=O | C13H12O3
reactant | 1-(naphthalen-2-yl)ethanone | 9.25 mmol, 1.57 g | C1=C(C=CC2=CC=CC=C12)C(C)=O | C12H10O
product | 3-(6-(Methoxymethoxy)naphthalen-2-yl)-1-(naphthalen-2-yl)prop-2-en-1-one | COCOC=1C=C2C=CC(=CC2=CC1)C=CC(=O)C1=CC2=CC=CC=C2C=C1 | C25H20O3
